US08207344B2
2: (1-Fluoro-cyclopentyl)-hydroxy-acetonitrile
Anhydrous dichloromethane (3 mL) and a 70% w/w solution of hydrogen fluoride (2.68 mL, 20.44 mmol) in pyridine are mixed in a polyethylene bottle at 0° C. under a nitrogen atmosphere. A solution of 1-oxa-spiro[2.4]heptane-2-carbonitrile (3.30 g, 26.76 mmol) in anhydrous dichloromethane (3.2 mL) is added slowly. The reaction is stirred at 0° C. for 1 h and at room temperature for 1 h. The mixture is cooled at 0° C. and a saturated solution of sodium carbonate is added carefully. The aqueous layer is extracted with diethyl ether. The organic layers are combined, washed with water and brine, dried over anhydrous sodium sulfate, filtered, and the solvent is removed. The residue is purified by chromatography in a 20 g silica gel cartridge eluting with hexane:diethyl ether (100:0 to 80:20) to obtain 1.7 g of desired compound as a colourless oil. 1H NMR (CDCl3) δ (ppm): 4.47 (d, 1H), 3.50 (bs, 1H), 2.12-1.67 (m, 8H).

reactant | hydrogen fluoride | 20.44 mmol, 2.68 mL | F | FH
reactant | polyethylene | C(C[*:2])[*:1]
reactant | 1-oxa-spiro[2.4]heptane-2-carbonitrile | 26.76 mmol, 3.30 g | O1C(C12CCCC2)C#N | C7H9NO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 3.2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (1-Fluoro-cyclopentyl)-hydroxy-acetonitrile | 1.7 g | FC1(CCCC1)C(C#N)O | C7H10FNO
